* Spice description of an2v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:33:58
* wsclib 0.13um values
.subckt an2v0x1 a b vdd vss z
M01 06    a     vdd   vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M02 n1    a     vss   vss nmos  L=0.12U  W=0.605U AS=0.160325P AD=0.160325P PS=1.74U   PD=1.74U
M03 vdd   b     06    vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M04 06    b     n1    vss nmos  L=0.12U  W=0.605U AS=0.160325P AD=0.160325P PS=1.74U   PD=1.74U
M05 vdd   06    z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M06 vss   06    z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C4  06    vss   0.724f
C5  a     vss   0.663f
C6  b     vss   0.538f
C3  z     vss   0.595f
.ends
* Spice description of an3v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:35:14
* wsclib 0.13um values
.subckt an3v0x1 a b c vdd vss z
M01 08    a     vdd   vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M02 n1    a     vss   vss nmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M03 vdd   b     08    vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M04 sig6  b     n1    vss nmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M05 08    c     vdd   vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M06 08    c     sig6  vss nmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M07 vdd   08    z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M08 vss   08    z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C4  08    vss   1.142f
C5  a     vss   0.539f
C7  b     vss   0.609f
C8  c     vss   0.651f
C3  z     vss   0.745f
.ends
* Spice description of an4v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:35:56
* wsclib 0.13um values
.subckt an4v0x1 a b c d vdd vss z
M01 10    a     vdd   vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M02 n1    a     vss   vss nmos  L=0.12U  W=0.88U  AS=0.2332P   AD=0.2332P   PS=2.29U   PD=2.29U
M03 vdd   b     10    vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M04 sig7  b     n1    vss nmos  L=0.12U  W=0.88U  AS=0.2332P   AD=0.2332P   PS=2.29U   PD=2.29U
M05 10    c     vdd   vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M06 n3    c     sig7  vss nmos  L=0.12U  W=0.88U  AS=0.2332P   AD=0.2332P   PS=2.29U   PD=2.29U
M07 vdd   d     10    vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M08 10    d     n3    vss nmos  L=0.12U  W=0.88U  AS=0.2332P   AD=0.2332P   PS=2.29U   PD=2.29U
M09 vdd   10    z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M10 vss   10    z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C4  10    vss   0.940f
C5  a     vss   0.674f
C8  b     vss   0.541f
C9  c     vss   0.622f
C10 d     vss   0.791f
C3  z     vss   0.765f
.ends
* Spice description of bf1v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:39:34
* wsclib 0.13um values
.subckt bf1v0x1 a vdd vss z
M01 an    a     vdd   vdd pmos  L=0.12U  W=0.715U AS=0.189475P AD=0.189475P PS=1.96U   PD=1.96U
M02 an    a     vss   vss nmos  L=0.12U  W=0.44U  AS=0.1166P   AD=0.1166P   PS=1.41U   PD=1.41U
M03 vdd   an    z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M04 vss   an    z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C2  an    vss   0.554f
C4  a     vss   0.449f
C3  z     vss   0.506f
.ends
.subckt dff cp d vdd vss z
*01-JAN-08 SPICE3       file   created      from dfnt1v0x2.ext -        technology: scmos
m00 vdd zn z   vdd pmos w=1.54u  l=0.13u ad=0.409794p  pd=3.3124u   as=0.4928p    ps=3.83u   
m01 zn  n4 vdd vdd pmos w=0.77u  l=0.13u ad=0.24035p   pd=2.29u     as=0.204897p  ps=1.6562u 
m02 w1  zn vdd vdd pmos w=0.33u  l=0.13u ad=0.042075p  pd=0.585u    as=0.087813p  ps=0.7098u 
m03 n4  ci w1  vdd pmos w=0.33u  l=0.13u ad=0.07535p   pd=0.72u     as=0.042075p  ps=0.585u  
m04 n2  cn n4  vdd pmos w=0.66u  l=0.13u ad=0.1386p    pd=1.08u     as=0.1507p    ps=1.44u   
m05 vdd n1 n2  vdd pmos w=0.66u  l=0.13u ad=0.175626p  pd=1.4196u   as=0.1386p    ps=1.08u   
m06 w2  n2 vdd vdd pmos w=0.33u  l=0.13u ad=0.042075p  pd=0.585u    as=0.087813p  ps=0.7098u 
m07 n1  cn w2  vdd pmos w=0.33u  l=0.13u ad=0.0759868p pd=0.716842u as=0.042075p  ps=0.585u  
m08 vss zn z   vss nmos w=0.77u  l=0.13u ad=0.223765p  pd=2.21828u  as=0.24035p   ps=2.29u   
m09 vss n4 zn  vss nmos w=0.385u l=0.13u ad=0.111882p  pd=1.10914u  as=0.138325p  ps=1.52u   
m10 w3  ci n1  vdd pmos w=0.715u l=0.13u ad=0.0911625p pd=0.97u     as=0.164638p  ps=1.55316u
m11 vdd d  w3  vdd pmos w=0.715u l=0.13u ad=0.190262p  pd=1.5379u   as=0.0911625p ps=0.97u   
m12 ci  cn vdd vdd pmos w=0.605u l=0.13u ad=0.196625p  pd=1.96u     as=0.160991p  ps=1.3013u 
m13 cn  cp vdd vdd pmos w=0.55u  l=0.13u ad=0.18205p   pd=1.85u     as=0.146355p  ps=1.183u  
m14 vss cn ci  vss nmos w=0.33u  l=0.13u ad=0.0958992p pd=0.95069u  as=0.12375p   ps=1.41u   
m15 w4  zn vss vss nmos w=0.33u  l=0.13u ad=0.042075p  pd=0.585u    as=0.0958992p ps=0.95069u
m16 n4  cn w4  vss nmos w=0.33u  l=0.13u ad=0.0693p    pd=0.75u     as=0.042075p  ps=0.585u  
m17 n2  ci n4  vss nmos w=0.33u  l=0.13u ad=0.0693p    pd=0.75u     as=0.0693p    ps=0.75u   
m18 vss n1 n2  vss nmos w=0.33u  l=0.13u ad=0.0958992p pd=0.95069u  as=0.0693p    ps=0.75u   
m19 w5  n2 vss vss nmos w=0.33u  l=0.13u ad=0.042075p  pd=0.585u    as=0.0958992p ps=0.95069u
m20 n1  ci w5  vss nmos w=0.33u  l=0.13u ad=0.0693p    pd=0.75u     as=0.042075p  ps=0.585u  
m21 w6  cn n1  vss nmos w=0.33u  l=0.13u ad=0.042075p  pd=0.585u    as=0.0693p    ps=0.75u   
m22 vss d  w6  vss nmos w=0.33u  l=0.13u ad=0.0958992p pd=0.95069u  as=0.042075p  ps=0.585u  
m23 cn  cp vss vss nmos w=0.385u l=0.13u ad=0.144375p  pd=1.52u     as=0.111882p  ps=1.10914u
C0  ci  cn  0.246f
C1  vdd cn  0.074f
C2  vdd z   0.030f
C3  ci  n4  0.090f
C4  ci  n1  0.179f
C5  n4  w4  0.010f
C6  n4  vdd 0.041f
C7  vdd n1  0.043f
C8  zn  cn  0.055f
C9  d   cp  0.006f
C10 ci  n2  0.120f
C11 w5  n1  0.008f
C12 ci  d   0.190f
C13 zn  z   0.050f
C14 vdd n2  0.012f
C15 d   vdd 0.003f
C16 n4  zn  0.116f
C17 ci  w3  0.005f
C18 n4  cn  0.011f
C19 cn  n1  0.076f
C20 ci  cp  0.027f
C21 cp  vdd 0.023f
C22 cn  n2  0.073f
C23 d   cn  0.105f
C24 ci  vdd 0.039f
C25 n4  w1  0.008f
C26 n4  n2  0.019f
C27 n1  n2  0.167f
C28 ci  zn  0.050f
C29 w2  n1  0.003f
C30 cp  cn  0.128f
C31 vdd zn  0.007f
C32 w6  vss 0.004f
C33 w5  vss 0.002f
C34 w4  vss 0.002f
C35 cp  vss 0.114f
C36 w3  vss 0.004f
C37 w2  vss 0.001f
C38 n4  vss 0.213f
C39 d   vss 0.119f
C40 ci  vss 0.377f
C41 n2  vss 0.184f
C42 n1  vss 0.247f
C43 z   vss 0.142f
C44 cn  vss 0.439f
C45 zn  vss 0.251f
.ends
* Spice description of iv1v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:44:01
* wsclib 0.13um values
.subckt iv1v0x1 a vdd vss z
M01 vdd   a     z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M02 vss   a     z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C3  a     vss   0.384f
C2  z     vss   0.576f
.ends
* Spice description of nd2v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:49:53
* wsclib 0.13um values
.subckt nd2v0x1 a b vdd vss z
M01 vdd   a     z     vdd pmos  L=0.12U  W=0.77U  AS=0.20405P  AD=0.20405P  PS=2.07U   PD=2.07U
M02 vss   a     sig3  vss nmos  L=0.12U  W=0.66U  AS=0.1749P   AD=0.1749P   PS=1.85U   PD=1.85U
M03 z     b     vdd   vdd pmos  L=0.12U  W=0.77U  AS=0.20405P  AD=0.20405P  PS=2.07U   PD=2.07U
M04 sig3  b     z     vss nmos  L=0.12U  W=0.66U  AS=0.1749P   AD=0.1749P   PS=1.85U   PD=1.85U
C4  a     vss   0.549f
C5  b     vss   0.578f
C1  z     vss   0.609f
.ends
* Spice description of nd3v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:52:51
* wsclib 0.13um values
.subckt nd3v0x1 a b c vdd vss z
M01 vdd   a     z     vdd pmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M02 vss   a     sig2  vss nmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M03 z     b     vdd   vdd pmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M04 sig2  b     sig3  vss nmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M05 vdd   c     z     vdd pmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M06 sig3  c     z     vss nmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
C5  a     vss   0.491f
C6  b     vss   0.400f
C7  c     vss   0.478f
C1  z     vss   0.850f
.ends
* Spice description of nd4v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:54:03
* wsclib 0.13um values
.subckt nd4v0x1 a b c d vdd vss z
M01 vdd   a     z     vdd pmos  L=0.12U  W=0.935U AS=0.247775P AD=0.247775P PS=2.4U    PD=2.4U
M02 vss   a     sig7  vss nmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M03 z     b     vdd   vdd pmos  L=0.12U  W=0.935U AS=0.247775P AD=0.247775P PS=2.4U    PD=2.4U
M04 sig7  b     sig3  vss nmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M05 vdd   c     z     vdd pmos  L=0.12U  W=0.935U AS=0.247775P AD=0.247775P PS=2.4U    PD=2.4U
M06 sig3  c     sig2  vss nmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
M07 z     d     vdd   vdd pmos  L=0.12U  W=0.935U AS=0.247775P AD=0.247775P PS=2.4U    PD=2.4U
M08 sig2  d     z     vss nmos  L=0.12U  W=1.1U   AS=0.2915P   AD=0.2915P   PS=2.73U   PD=2.73U
C9  a     vss   0.610f
C8  b     vss   0.677f
C6  c     vss   0.603f
C5  d     vss   0.638f
C1  z     vss   0.948f
.ends
* Spice description of nr2v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:55:05
* wsclib 0.13um values
.subckt nr2v0x1 a b vdd vss z
M01 vdd   a     01    vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M02 vss   a     z     vss nmos  L=0.12U  W=0.44U  AS=0.1166P   AD=0.1166P   PS=1.41U   PD=1.41U
M03 01    b     z     vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M04 z     b     vss   vss nmos  L=0.12U  W=0.44U  AS=0.1166P   AD=0.1166P   PS=1.41U   PD=1.41U
C4  a     vss   0.341f
C3  b     vss   0.433f
C2  z     vss   0.677f
.ends
* Spice description of nr3v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:56:49
* wsclib 0.13um values
.subckt nr3v0x1 a b c vdd vss z
M01 sig6  a     vdd   vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M02 vdd   a     02    vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M03 vss   a     z     vss nmos  L=0.12U  W=0.55U  AS=0.14575P  AD=0.14575P  PS=1.63U   PD=1.63U
M04 04    b     sig6  vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M05 02    b     08    vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M06 z     b     vss   vss nmos  L=0.12U  W=0.55U  AS=0.14575P  AD=0.14575P  PS=1.63U   PD=1.63U
M07 z     c     04    vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M08 08    c     z     vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M09 vss   c     z     vss nmos  L=0.12U  W=0.55U  AS=0.14575P  AD=0.14575P  PS=1.63U   PD=1.63U
C3  a     vss   0.957f
C4  b     vss   0.895f
C5  c     vss   0.693f
C2  z     vss   0.834f
.ends
* Spice description of nr4v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 16:57:25
* wsclib 0.13um values
.subckt nr4v0x1 a b c d vdd vss z
M1a 1b    a     vdd   vdd pmos  L=0.12U  W=1.375U AS=0.364375P AD=0.364375P PS=3.28U   PD=3.28U
M1b sig8  b     1b    vdd pmos  L=0.12U  W=1.375U AS=0.364375P AD=0.364375P PS=3.28U   PD=3.28U
M1c 1d    c     sig8  vdd pmos  L=0.12U  W=1.375U AS=0.364375P AD=0.364375P PS=3.28U   PD=3.28U
M1d z     d     1d    vdd pmos  L=0.12U  W=1.375U AS=0.364375P AD=0.364375P PS=3.28U   PD=3.28U
M2a vdd   a     2a    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M2b 2a    b     sig11 vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M2c sig11 c     2c    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M2d 2c    d     z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M3a z     a     vss   vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M3b vss   b     z     vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M3c z     c     vss   vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M3d vss   d     z     vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
C4  a     vss   1.510f
C3  b     vss   1.102f
C6  c     vss   0.817f
C5  d     vss   0.806f
C2  z     vss   0.935f
.ends
* Spice description of or2v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 17:00:11
* wsclib 0.13um values
.subckt or2v0x1 a b vdd vss z
M01 03    a     vdd   vdd pmos  L=0.12U  W=1.155U AS=0.306075P AD=0.306075P PS=2.84U   PD=2.84U
M02 sig1  a     vss   vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M03 sig1  b     03    vdd pmos  L=0.12U  W=1.155U AS=0.306075P AD=0.306075P PS=2.84U   PD=2.84U
M04 vss   b     sig1  vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M5  vdd   sig1  z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M6  vss   sig1  z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C4  a     vss   0.464f
C5  b     vss   0.507f
C1  sig1  vss   0.619f
C3  z     vss   0.593f
.ends
* Spice description of or3v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 17:00:59
* wsclib 0.13um values
.subckt or3v0x1 a b c vdd vss z
M01 01    a     vdd   vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M02 sig1  a     vss   vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M03 03    b     01    vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M04 vss   b     sig1  vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M05 sig1  c     03    vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M06 sig1  c     vss   vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M07 vdd   sig1  z     vdd pmos  L=0.12U  W=1.045U AS=0.276925P AD=0.276925P PS=2.62U   PD=2.62U
M08 vss   sig1  z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C4  a     vss   0.544f
C5  b     vss   0.535f
C6  c     vss   0.625f
C1  sig1  vss   0.995f
C3  z     vss   0.544f
.ends
* Spice description of or4v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 17:01:43
* wsclib 0.13um values
.subckt or4v0x1 a b c d vdd vss z
M01 sig8  a     vdd   vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M02 vdd   a     05    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M03 sig1  a     vss   vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M04 n2    b     sig8  vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M05 05    b     08    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M06 vss   b     sig1  vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M07 10    c     n2    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M08 08    c     11    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M09 sig1  c     vss   vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M10 sig1  d     10    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M11 11    d     sig1  vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M12 vss   d     sig1  vss nmos  L=0.12U  W=0.33U  AS=0.08745P  AD=0.08745P  PS=1.19U   PD=1.19U
M13 vdd   sig1  z     vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M14 vss   sig1  z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C4  a     vss   1.356f
C5  b     vss   1.229f
C6  c     vss   1.043f
C7  d     vss   0.797f
C1  sig1  vss   1.003f
C3  z     vss   0.701f
.ends
* Spice description of xnr2v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 17:04:32
* wsclib 0.13um values
.subckt xnr2v0x1 a b vdd vss z
M01 z     b     sig3  vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M02 bn    sig3  z     vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
M03 sig3  a     vdd   vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M04 vdd   b     bn    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M05 z     bn    sig3  vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
M06 vdd   sig3  n1    vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M07 sig3  a     vss   vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
M08 n1    bn    z     vdd pmos  L=0.12U  W=1.54U  AS=0.4081P   AD=0.4081P   PS=3.61U   PD=3.61U
M09 vss   b     bn    vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
C4  a     vss   0.389f
C2  bn    vss   1.593f
C5  b     vss   0.840f
C3  sig3  vss   0.618f
C6  z     vss   0.627f
.ends
* Spice description of xor2v0x1
* Spice driver version 134999461
* Date  1/01/2008 at 17:06:20
* wsclib 0.13um values
.subckt xor2v0x1 a b vdd vss z
M01 04    a     vdd   vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M02 04    a     vss   vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
M03 vdd   b     bn    vdd pmos  L=0.12U  W=1.485U AS=0.393525P AD=0.393525P PS=3.5U    PD=3.5U
M04 z     b     04    vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
M05 vss   b     bn    vss nmos  L=0.12U  W=0.495U AS=0.131175P AD=0.131175P PS=1.52U   PD=1.52U
M06 bn    04    z     vdd pmos  L=0.12U  W=1.485U AS=0.393525P AD=0.393525P PS=3.5U    PD=3.5U
M07 vss   04    09    vss nmos  L=0.12U  W=0.66U  AS=0.1749P   AD=0.1749P   PS=1.85U   PD=1.85U
M08 z     bn    04    vdd pmos  L=0.12U  W=0.99U  AS=0.26235P  AD=0.26235P  PS=2.51U   PD=2.51U
M09 09    bn    z     vss nmos  L=0.12U  W=0.66U  AS=0.1749P   AD=0.1749P   PS=1.85U   PD=1.85U
C6  04    vss   0.683f
C4  a     vss   0.590f
C1  bn    vss   0.910f
C3  b     vss   1.149f
C5  z     vss   0.680f
.ends
